US03991066
EXAMPLE 8: 3-(1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridin-2-yl)-N,N-dimethylpropionic acid amide
1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine and N,N-dimethyl acrylamide are reacted in accordance with the process described in Example 6. Reaction period 7 hours. M.P. of the hydrochloride of the title compound 219°-221° from ethanol.

reactant | 1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine | CC=1C2=CC=CC=C2C2CNCCC21 | C13H15N
reactant | N,N-dimethyl acrylamide | CN(C(C=C)=O)C | C5H9NO
reactant | hydrochloride | Cl | ClH
product | 3-(1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridin-2-yl)-N,N-dimethylpropionic acid amide | CC=1C2=CC=CC=C2C2CN(CCC21)CCC(=O)N(C)C | C18H24N2O
